US07521446B2
Methyl (2E)(4S)-4-aminopent-2-enoate hydrochloride
A solution of methyl (2E)(4S)-4-[(tert-butoxy)carbonylamino]pent-2-enoate (3.083 g, 13.45 mmol) in 4N hydrogen chloride in dioxane was stirred at room temperature for 1 hour. The volatiles were evaporated to give the title compound (2.2 g, 98%): ES-MS (m/z) 130.3 [M+1]+.

reactant | methyl (2E)(4S)-4-[(tert-butoxy)carbonylamino]pent-2-enoate | 13.45 mmol, 3.083 g | C(C)(C)(C)OC(=O)N[C@H](/C=C/C(=O)OC)C | C11H19NO4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl (2E)(4S)-4-aminopent-2-enoate hydrochloride | 2.2 g, 98% | Cl.N[C@H](/C=C/C(=O)OC)C | InChI=1S/C6H11NO2.ClH/c1-5(7)3-4-6(8)9-2;/h3-5H,7H2,1-2H3;1H/b4-3+;/t5-;/m0./s1
